US09085555B2
C. (2S,3S,4S)-4-Fluoro-3-methoxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester
To a solution of (2S,3S,4S)-4-fluoro-3-methoxy-pyrrolidine-1,2-dicarboxylic acid dibenzyl ester (430 mg, 1.11 mmol) in MeOH (25 mL) was added Pd/C 10% (100 mg). The reaction was placed under hydrogen atmosphere and was stirred for 2 h then was filtered over glass-fiber, rinsed with MeOH (25 mL) and water (25 mL). After concentration, the residue was lyophilized overnight. The powder obtained was dissolved in THF/Water 1/1 (20 mL) then aq. 1N NaOH (0.755 mL) and Boc anhydride (412 mg, 2.22 mmol) were added and the reaction mixture was stirred at RT overnight. After concentration, the crude residue was purified by flash column chromatography on silica gel (c-hexane/EtOAc 1:1+0.5% AcOH). MS (UPLC): 264 [M+H]+; tR (HPLC conditions f): 0.65 min.

reactant | (2S,3S,4S)-4-fluoro-3-methoxy-pyrrolidine-1,2-dicarboxylic acid dibenzyl ester | 1.11 mmol, 430 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H]([C@@H]([C@H](C1)F)OC)C(=O)OCC1=CC=CC=C1 | C21H22FNO5
reactant | NaOH | 1N, 0.755 mL | [OH-].[Na+]
reactant | Boc anhydride | 2.22 mmol, 412 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 25 mL | CO | CH4O
solvent | toluene THF | 20 mL | C1(=CC=CC=C1)C.C1CCOC1
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | (2S,3S,4S)-4-Fluoro-3-methoxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]([C@@H]([C@H](C1)F)OC)C(=O)O | C11H18FNO5
